US04339449
To a solution of benzyl 7-phenoxyacetamido-8-oxo-3-trifluoromethanesulfonyl-5-thia-1,3-diazabicyclo[4,2,0]octane-2-carboxylate (2.19 g.) and anisole (6.3 ml.) in methylene chloride (20 ml.) was added a solution of alminum trichloride (2.6 g.) in nitromethane (10 ml.) at 0° C. over a period of 5 minutes. The resultant deep red solution was stirred at 0° C. for 30 minutes. After the reaction mixture was poured into a mixture of ice and ethyl acetate (120 ml.), it was acidified to pH 1 with 3 N hydrochloric acid. The organic layer was separated, washed twice with an aqueous solution of sodium chloride and hydrochloric acid and then extracted with a chilled dilute aqueous solution of sodium bicarbonate (once with 50 ml. and twice with 30 ml.). These aqueous extracts were combined, acidified to pH 1 with 3 N hydrochloric acid, saturated with sodium chloride and then extracted three times with chloroform. Drying over magnesium sulfate and removal of the solvent afforded an amorphous solid (1.75 g.) of 7-phenoxyacetamido-8-oxo-3-trifluoromethanesulfonyl-5-thia-1,3-diazabicyclo[4,2,0]octane-2-carboxylic acid.

reactant | benzyl 7-phenoxyacetamido-8-oxo-3-trifluoromethanesulfonyl-5-thia-1,3-diazabicyclo[4,2,0]octane-2-carboxylate | 2.19 g | O(C1=CC=CC=C1)CC(=O)NC1C2SCN(C(N2C1=O)C(=O)OCC1=CC=CC=C1)S(=O)(=O)C(F)(F)F | C22H20F3N3O7S2
reactant | anisole | 6.3 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | ethyl acetate | 120 ml | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 3 N | Cl | ClH
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | nitromethane | 10 ml | [N+](=O)([O-])C | CH3NO2
product | 7-phenoxyacetamido-8-oxo-3-trifluoromethanesulfonyl-5-thia-1,3-diazabicyclo[4,2,0]octane-2-carboxylic acid | 1.75 g | O(C1=CC=CC=C1)CC(=O)NC1C2SCN(C(N2C1=O)C(=O)O)S(=O)(=O)C(F)(F)F | C15H14F3N3O7S2
